US07153997B2
To a stirred mixture of methyl[3,5-dibromo-4-(3-formyl-4-hydroxy-5-methyl-phenoxy)phenyl]acetate (60 mg, 0.13 mmol) and trifluoroacetic acid (1.5 mL), triethylsilane (62 μl, 0.39 mmol) was added. The reaction mixture was stirred at room temperature for 20 hours, the organic phase concentrated and the residue was co-evaporated (toluene) to give 60 mg of crude methyl[3,5-dibromo-4-(3,5-dibromo-4-hydroxyphenoxy)phenyl]acetate. The crude product was used in next step. Lithium hydroxide (1.5 ml, 1N) was added to a stirred solution of crude methyl[3,5-dibromo-4-(3,5-dibromo-4-hydroxyphenoxy)phenyl]acetate and tetrahydrofuran (1.5 mL). The resulting mixture was stirred for 2 hours at room temperature, acidified with hydrochloric acid (1 N) and extracted with ethyl acetate. The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was purified on column (HPLC, C8, gradient eluent: acetonitrile/water (0.5% formic acid) from 1:4 to 1:0) to give 16 mg (14% for both steps) of 3,5-dibromo-4-(3,5-dibromo-4-hydroxyphenoxy)phenylacetic acid.

reactant | Lithium hydroxide | 1N, 1.5 ml | [OH-].[Li+]
reactant | methyl[3,5-dibromo-4-(3,5-dibromo-4-hydroxyphenoxy)phenyl]acetate | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)Br)O)Br)Br)=O | C15H10Br4O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 3,5-dibromo-4-(3,5-dibromo-4-hydroxyphenoxy)phenylacetic acid | BrC=1C=C(C=C(C1OC1=CC(=C(C(=C1)Br)O)Br)Br)CC(=O)O | C14H8Br4O4
